US03982001
e. 1-Phenethyl-4-hydroxy-4-(3.4-methylene dioxy phenyl)-piperidine
2.2 g. 4-Hydroxy-4-(3.4-methylene dioxy phenyl)-piperidine are dissolved hot in 35 ml. acetone, the solution is mixed with 0.95 g β phenethyl bromide and the reaction mixture is refluxed.

reactant | 4-Hydroxy-4-(3.4-methylene dioxy phenyl)-piperidine | OC1(CCNCC1)C1=CC2=C(C=C1)OCO2 | C12H15NO3
reactant | phenethyl bromide | 0.95 g | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | acetone | CC(=O)C | C3H6O
product | 1-Phenethyl-4-hydroxy-4-(3.4-methylene dioxy phenyl)-piperidine | C(CC1=CC=CC=C1)N1CCC(CC1)(C1=CC2=C(C=C1)OCO2)O | C20H23NO3
